US05801186
3-(4-(1-(6-Chlorobenzo[b]thiophen-3-yl)-4-piperazinyl)butyl)-2-methyl-1-thia-3-azaspiro[4.4]nonan-4-one hydrochloride
A mixture of 3-(4-bromobutyl)-2-methyl-1-thia-3-azaspiro[4.4]nonan-4-one (5.00 g), 6-chloro-3-piperazinylbenzo[b]thiophene (5.10 g), K2 CO3 (8.00 g) and NaI (400 mg) in acetonitrile (250 ml) was heated at 85° C. for 15.5 hours and the product was processed in substantially the same manner as in Example 10 to afford 1.43 g of crystalline solid, m.p. 211°-214° C.

reactant | 3-(4-bromobutyl)-2-methyl-1-thia-3-azaspiro[4.4]nonan-4-one | 5.00 g | BrCCCCN1C(SC2(C1=O)CCCC2)C | C12H20BrNOS
reactant | 6-chloro-3-piperazinylbenzo[b]thiophene | 5.10 g | ClC=1C=CC2=C(SC=C2N2CCNCC2)C1 | C12H13ClN2S
reactant | NaI | 400 mg | [Na+].[I-]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 3-(4-(1-(6-Chlorobenzo[b]thiophen-3-yl)-4-piperazinyl)butyl)-2-methyl-1-thia-3-azaspiro[4.4]nonan-4-one hydrochloride | 1.43 g | Cl.ClC=1C=CC2=C(SC=C2N2CCN(CC2)CCCCN2C(SC3(C2=O)CCCC3)C)C1 | InChI=1S/C24H32ClN3OS2.ClH/c1-18-28(23(29)24(31-18)8-2-3-9-24)11-5-4-10-26-12-14-27(15-13-26)21-17-30-22-16-19(25)6-7-20(21)22;/h6-7,16-18H,2-5,8-15H2,1H3;1H
